US08003796B2
Preparation of 1-(2-methyl-4-(methylsulfonyl)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one
Example 178 was prepared according to the procedures described in Example 162 substituting 4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one for isopropyl 4-(methylsulfonyloxy)piperidine-1-carboxylate and 1-fluoro-2-methyl-4-(methylsulfonyl)benzene for 4-bromobenzonitrile in Step C except that the reaction was heated at 160° C. for 20 min. with copper(I) iodide, potassium carbonate and quinolin-8-ol in a Microwave as described in Step A of Example 1 instead of reflux at 120° C. in the presence of cesium carbonate for 10 h. 1H NMR (500 MHz, CDCl3) δ ppm 8.21 (br. s., 2H), 7.92 (s, 1H), 7.88 (d, J=7.70 Hz, 1H), 7.40 (d, J=7.70 Hz, 1H), 7.06 (d, J=6.05 Hz, 1H), 5.93-6.11 (m, 2H), 4.58 (br. s., 1H), 4.21 (br. s., 2H), 3.56-3.80 (m, 2H), 3.08 (s, 3H), 2.41 (t, J=7.42 Hz, 2H), 2.28 (s, 3H), 2.09 (d, J=9.90 Hz, 2H), 1.87 (br. s., 2H), 1.48-1.65 (m, 2H), 0.93 (t, J=7.42 Hz, 3 H). MS (ESI) 483 (M+H).

reactant | 4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | C(CC)C=1C=NC(=NC1)N1CCC(CC1)OC1=CC(NC=C1)=O | C17H22N4O2
reactant | isopropyl 4-(methylsulfonyloxy)piperidine-1-carboxylate | CS(=O)(=O)OC1CCN(CC1)C(=O)OC(C)C | C10H19NO5S
reactant | 1-fluoro-2-methyl-4-(methylsulfonyl)benzene | FC1=C(C=C(C=C1)S(=O)(=O)C)C | C8H9FO2S
reactant | 4-bromobenzonitrile | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | quinolin-8-ol | N1=CC=CC2=CC=CC(=C12)O | C9H7NO
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | copper(I) iodide | [Cu]I
product | 1-(2-methyl-4-(methylsulfonyl)phenyl)-4-(1-(5-propylpyrimidin-2-yl)piperidin-4-yloxy)pyridin-2(1H)-one | CC1=C(C=CC(=C1)S(=O)(=O)C)N1C(C=C(C=C1)OC1CCN(CC1)C1=NC=C(C=N1)CCC)=O | C25H30N4O4S
